US04866091
A mixture of 3'-(2,4-difluorophenoxy)-4'-nitroacetophenone (2.5 g), iron powder (2.5 g) and ammonium chloride (0.25 g) in ethanol (40 ml) and water (20 ml) was refluxed with stirring for 30 minutes. The insoluble materials were filtered and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated to give a powder of 4'-amino-3'-(2,4-difluorophenoxy)acetophenone (2.2 g).

reactant | 3'-(2,4-difluorophenoxy)-4'-nitroacetophenone | 2.5 g | FC1=C(OC=2C=C(C=CC2[N+](=O)[O-])C(C)=O)C=CC(=C1)F | C14H9F2NO4
reactant | ammonium chloride | 0.25 g | [Cl-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
catalyst | iron | 2.5 g | [Fe] | Fe
product | 4'-amino-3'-(2,4-difluorophenoxy)acetophenone | 2.2 g | NC1=C(C=C(C=C1)C(C)=O)OC1=C(C=C(C=C1)F)F | C14H11F2NO2
